US05436334
a) trans-1-benzoyl-3-bromo-4-(2-hydroxyethoxy)-pyrrolidine
95 g (0.55 mol) of 1-benzoyl-3-pyrroline are dissolved in 380 g of ethylene glycol, and 101 g (0.57 mol) of N-bromosuccinimide are added in 5 g portions over a period of 2 hours at room temperature. The mixture is then stirred overnight at room temperature and poured into water, followed by extraction with methylene chloride, drying over magnesium sulphate and concentration of the solution. The residue (188 g) was chromatographed with ethyl acetate on silica gel.

reactant | 1-benzoyl-3-pyrroline | 0.55 mol, 95 g | C(C1=CC=CC=C1)(=O)N1CC=CC1 | C11H11NO
reactant | N-bromosuccinimide | 0.57 mol, 101 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | water | O | H2O
reactant | ethylene glycol | 380 g | C(CO)O | C2H6O2
product | trans-1-benzoyl-3-bromo-4-(2-hydroxyethoxy)-pyrrolidine | C(C1=CC=CC=C1)(=O)N1C[C@H]([C@@H](C1)OCCO)Br | C13H16BrNO3
